US09302989B2
N-[4-(1-benzoylpiperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-[4-(piperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.39-7.47 (m, 3H) 7.22-7.40 (m, 6H) 6.27 (t, J=5.43 Hz, 1H) 4.56 (s, 4H) 4.36-4.52 (br s, 1H) 3.52 (br s, 1H) 3.00-3.15 (m, 2H) 2.93 (br s, 1H) 0.93-1.86 (series of br m, 12H); MS (ESI(+)) m/e 406 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(piperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(CC1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C18H27N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-benzoylpiperidin-4-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C25H31N3O2
